US06121187
The influence on the acid-catalyzed formation of t-butyl ether from isobutene with n-hexanol and 1-naphthol was examined in a competitive reaction. The formation of dimers and oligomers of isobutene as side-products was to be suppressed, and selectivity for one of the two alcohols was to be achieved. While the formation of almost 25% of isobutene dimers, based on the ethers formed, occurs in methyl-free Sn-containing Si glass (3% Sn, 97% Si), no dimer formation can be detected in the product with methyl-containing Sn--Si glass (30% Me--Si, 3% Sn, 67% Si). With methyl-free Al-containing Si glass (3% Al, 97% Si), the formation of isobutene dimers predominates, and the yield is around 67% naphthol t-butyl ether and 37% n-hexyl t-butyl ether. With methyl-containing Al-Si glass (10% Me--Si, 3% Al, 87% Si), only 30% isobutene dimers form, relatively to the ether formation, and the yield of ethers increases to 57% n-hexyl t-butyl ether and 43% naphthol t-butyl ether. This suppression of dimer formation and change of the ether selectivity with increasing methyl content of the glasses is continued in Zr-containing glasses.

reactant | t-butyl ether | C(C)(C)(C)OC(C)(C)C | C8H18O
reactant | isobutene | C=C(C)C | C4H8
reactant | n-hexanol | C(CCCCC)O | C6H14O
reactant | 1-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | n-hexyl t-butyl ether | C(C)(C)(C)OCCCCCC | C10H22O
product | naphthol t-butyl ether | yield is around 67% | C(C)(C)(C)OC1=CC=CC2=CC=CC=C12 | C14H16O
